US07179823B1
A mixture of ethyl 3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate (750 mg), 1 N aqueous sodium hydroxide solution (3 ml), ethanol (3 ml), and tetrahydrofuran (3 ml) was stirred at room temperature for one hour. The reaction mixture was acidified with dilute hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained crystals were collected by filtration, and 3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid (610 mg, yield: 90%) was obtained. This was recrystallized from ethyl acetate-hexane. Melting point: 110–111° C.

reactant | ethyl 3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate | 750 mg | CN(C1=NC=CC=C1)CCOC1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)C2=CC=CC=C2)C=C1 | C29H32N4O3
reactant | sodium hydroxide | 1 N, 3 ml | [OH-].[Na+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-[1-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid | 610 mg, yield: 90% | CN(C1=NC=CC=C1)CCOC1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C2=CC=CC=C2)C=C1 | C27H28N4O3
